US07754747B2
A mixture of 6-[2-(1-methyl-1H-indol-3-yl)-oxazol-5-yl]-naphthalen-2-ol (289 mg, 0.843 mmol), prepared in step 4 of Example 8, methyl bromoacetate (80 μL, 0.845 mmol) and cesium carbonate (852 mg, 2.61 mmol) in 50 mL of acetone was stirred under nitrogen at room temperature for 19 h (overnight). The acetone was removed under reduced pressure and the residue partitioned between methylene chloride and water. The organic layer was separated and the aqueous layer extracted two times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give methyl ({6-[2-(1-methyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate (289 mg, 90%) as a tan solid, mp 187-189° C. Elemental Analysis for C25H20N2O4 Calc'd: C, 72.80; H, 4.89; N, 6.79. Found: C, 71.55; H, 4.86; N, 6.53

reactant | 6-[2-(1-methyl-1H-indol-3-yl)-oxazol-5-yl]-naphthalen-2-ol | 0.843 mmol, 289 mg | CN1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)O | C22H16N2O2
reactant | methyl bromoacetate | 0.845 mmol, 80 μL | BrCC(=O)OC | C3H5BrO2
reactant | cesium carbonate | 2.61 mmol, 852 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | methyl ({6-[2-(1-methyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate | 289 mg, 90% | CN1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C25H20N2O4
